US06380218B1
1-(4,5-Dichloro-thiophen-2-yl)-ethanone
To a solution of 1-Thiophen-2-yl-ethanone (5.0 grams, 40.0 mmole) in chloroform (50 ml) at 20° C. was added portionwise aluminum chloride (15.9 grams, 119.0 mmole). The mixture was stirred at 20° C. for 10 minutes and 1 M Cl2 in carbon tetrachloride (120 ml) was added dropwise. The mixture was stirred at room temperature for 30 minutes and diluted with methylene chloride (300 ml) and washed with 1 N sodium hydroxide and water and dried over magnesium sulfate and concentrated to give a solid (8.5 g). MW 195.07; MS (m/e) 196 (M++1).

reactant | 1-Thiophen-2-yl-ethanone | 40.0 mmole, 5.0 grams | S1C(=CC=C1)C(C)=O | C6H6OS
reactant | aluminum chloride | 119.0 mmole, 15.9 grams | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | Cl2 | 1 M | ClCl | Cl2
solvent | chloroform | 50 ml | C(Cl)(Cl)Cl | CHCl3
solvent | carbon tetrachloride | 120 ml | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | methylene chloride | 300 ml | C(Cl)Cl | CH2Cl2
product | 1-(4,5-Dichloro-thiophen-2-yl)-ethanone | 8.5 g | ClC=1C=C(SC1Cl)C(C)=O | C6H4Cl2OS
